US04060603
ii. N-t-Butoxycarbonyl-trans-3-methyl-L-prolineamide
N-Methyl morpholine (6.0 ml) was added to a solution of N-t-butoxy-carbonyl-trans-3-methyl-L-proline (1.1 g) in tetrahydrofuran (50 ml) at -20°. Freshly distilled isobutylchloroformate (0.8 g) was added dropwise and the solution stirred for 10 minutes at -20°. Concentrated ammonia solution (5 ml) was added and the solution stirred for 2 hours, evaporated, the residue taken up in ethyl acetate (100 ml) and the solution washed with 10% aqueous sodium bicarbonate, brine and dried (Na2SO4). Evaporation gave the crude crystalline product (1.0 g). Recrystallisation from ethyl acetate/light petroleum (40°-60°) gave the desired product (0.91 g) m.p. 100°-101°, [α]D20 -79.7° (c, 1.0, chloroform)

reactant | N-Methyl morpholine | 6.0 ml | CN1CCOCC1 | C5H11NO
reactant | N-t-butoxy-carbonyl-trans-3-methyl-L-proline | 1.1 g | C(C)(C)(C)ON1[C@H](C(=O)O)[C@H](C(C1)=C=O)C | C11H17NO4
reactant | isobutylchloroformate | 0.8 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | 5 ml | N | H3N
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-t-Butoxycarbonyl-trans-3-methyl-L-prolineamide | 1.0 g | C(C)(C)(C)OC(=O)NC([C@H]1NCC[C@@H]1C)=O | C11H20N2O3
